US08222416B2
A mixture of 4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester (1.50 g, 3.93 mmol) and 10% palladium on activated carbon (300 mg) in methanol (300 mL) was heated at 50° C. under hydrogen (50 psi) for 5 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) afforded 4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-2-fluoro-benzoic acid methyl ester (1.40 g, 92%): LC/MS m/e calcd for C22H22F2N2O2 [M+H]+ 385.43, observed 384.9.

reactant | 4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester | 3.93 mmol, 1.50 g | COC(C1=C(C=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1)F)=O | C22H20F2N2O2
catalyst | palladium on activated carbon | 300 mg | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | 4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-2-fluoro-benzoic acid methyl ester | 1.40 g, 92% | COC(C1=C(C=C(C=C1)C(CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1)F)=O | C22H22F2N2O2
